### PR TITLE
[Merged by Bors] - feat(LocalRing): add `IsLocalRing` instance for `MulOpposite`

### PR DESCRIPTION
**Pull request by vlad902**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/LocalRing/Basic.lean [hunk 1]
```diff
@@ -57,6 +59,11 @@ theorem exists_of_isUnit_sum {ι : Type*} {s : Finset ι} {f : ι → R}
     (h : IsUnit (∑ i ∈ s, f i)) : ∃ i ∈ s, IsUnit (f i) := by
   contrapose! h; exact (nonunitsAddSubmonoid R).sum_mem h
 
+instance : IsLocalRing Rᵐᵒᵖ where
+  isUnit_or_isUnit_of_add_one h := by
+    have := (‹_› : IsLocalRing R).isUnit_or_isUnit_of_add_one <| (MulOpposite.op_eq_one_iff _).mp h
```
Comment (eric-wieser) [inline Mathlib/RingTheory/LocalRing/Basic.lean]: Does this work as
```suggestion
    have := isUnit_or_isUnit_of_add_one (R := R) <| (MulOpposite.op_eq_one_iff _).mp h
```

Comment (vlad902) [reply Mathlib/RingTheory/LocalRing/Basic.lean]: It does, thanks! I didn't realize I could elide dot notation in this context.

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by faenuccio** [comment]
thanks

bors merge
